US07569578B2
(±)-tert-Butyl 2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(1-(pyridin-2-ylmethyl)-1H-imidazol-2-yl)ethylcarbamate
tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate (35.0 mg, 0.074 mmol), 2-(chloromethyl)pyridine (13.3 mg, 0.082 mmol, 1.05 equiv), and cesium carbonate (72.3 mg, 0.22 mmol) were combined in dimethylformamide (1.5 mL). After stirring at room temperature for 16 h, the solvents were removed and the residue purified by column chromatography to afford 35.2 mg (77%). Mass spec.: 563.3 (MH)+.

reactant | tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate | 0.074 mmol, 35.0 mg | C(C)(C)(C)OC(NC(CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C=1NC=CN1)=O | C24H37N5O3Si
reactant | 2-(chloromethyl)pyridine | 0.082 mmol, 13.3 mg, 1.05 equiv | ClCC1=NC=CC=C1 | C6H6ClN
reactant | cesium carbonate | 0.22 mmol, 72.3 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | (±)-tert-Butyl 2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)-1-(1-(pyridin-2-ylmethyl)-1H-imidazol-2-yl)ethylcarbamate | CC1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)CC(C=1N(C=CN1)CC1=NC=CC=C1)NC(OC(C)(C)C)=O | C30H42N6O3Si
